US06239131B1
Preparation of 3-[3-(1-cyclohexylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoic acid
Trifluoroacetic acid (5 ml) was added to a solution of 1-(1-cyclohexylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-tert-butoxycarbonylphenyl)urea (560 mg) in methylene chloride (5 ml), the mixture was stirred at room temperature for one hour. The reaction mixture was concentrated under reduced pressure, etanol was added to the residue for crystallization, collected by filtration, to thereby obtain 330 mg of the title compound.

reactant | Trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(1-cyclohexylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-tert-butoxycarbonylphenyl)urea | 560 mg | C1(CCCCC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)NC(=O)NC2=CC(=CC=C2)C(=O)OC(C)(C)C)=O | C35H46N4O5
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-[3-(1-cyclohexylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoic acid | 330 mg | C1(CCCCC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O | C31H38N4O5
